US08486967B2
e) 8-(4-Chloro-phenyl)-6-cyclopropyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a solution of 8-bromo-6-cyclopropyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (300 mg, 1.29 mmol) and 4-chlorophenyl boronic acid (463 mg, 2.96 mmol) in dioxane (15 mL) was added an aqueous solution of Na2CO3 (2 M, 2 mL) and degassed with argon for 5 minutes. PdCl2 (dppf)2.CH2Cl2 (30.34 mg, 0.04 mmol) was added and stirred at 80° C. for 90 minutes. The reaction mixture was cooled to room temperature and water (20 mL) was added. The aqueous phase was extracted with ethyl acetate, the combined organic phases were dried over sodium sulfate, the solvent was evaporated and the residue purified by silica gel chromatography using ethyl acetate/hexane as eluent. The title compound was obtained as an off white solid (252 mg, 75%).

reactant | 8-bromo-6-cyclopropyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 1.29 mmol, 300 mg | BrC=1C=2N(C=C(C1)C1CC1)N=C(N2)N | C9H9BrN4
reactant | 4-chlorophenyl boronic acid | 2.96 mmol, 463 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2 M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 0.04 mmol, 30.34 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | 8-(4-Chloro-phenyl)-6-cyclopropyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC1=CC=C(C=C1)C=1C=2N(C=C(C1)C1CC1)N=C(N2)N | C15H13ClN4
